*Three stage operational amplifier

*** *** OPAMP SUBCIRCUIT *** ***
.SUBCKT PFC.SUB VP VN VOUT IBIAS VB1 AVDD AVSS

M00 IBIAS IBIAS AVDD AVDD PMOS W=#WM00_10# L=#LM1#

* differential pair
M10 1     IBIAS AVDD AVDD PMOS W=#WM00_10# L=#LM1# M=6

M11 2     VN    1    1    PMOS W=#WM11_12# L=#LM2#
M12 3     VP    1    1    PMOS W=#WM11_12# L=#LM2#

* folded cascode
M13 4     IBIAS AVDD AVDD PMOS W=#WM13_16# L=#LM1# M=3
M16 5     IBIAS AVDD AVDD PMOS W=#WM13_16# L=#LM1# M=3

M14 4     VB1   2    AVSS NMOS W=#WM14_17# L=#LM3#
M17 5     VB1   3    AVSS NMOS W=#WM14_17# L=#LM3#

M15 2     4     AVSS AVSS NMOS W=#WM15_18# L=#LM4#
M18 3     4     AVSS AVSS NMOS W=#WM15_18# L=#LM4#

* second stage
M20 6     5     AVDD AVDD PMOS W=#WM20# L=#LM6#
M22 7     IBIAS AVDD AVDD PMOS W=#WM22# L=#LM1#

M21 6     6     AVSS AVSS NMOS W=#WM21_23# L=#LM5#
M23 7     6     AVSS AVSS NMOS W=#WM21_23# L=#LM5#

* third stage
M30 VOUT  5     AVDD AVDD PMOS W=#WM30# L=#LM6# M=22
M31 VOUT  7     AVSS AVSS NMOS W=#WM31# L=#LM7# M=5

* compensation
CM1 5 VOUT #CC1#
CM2 5 7    #CC2#
.ENDS PFC.SUB

*** *** SUPPLY VOLTAGES *** ***
VDD VDD 0 #VSUPPLY#
VSS VSS 0   0

*** *** BIAS VOLTAGE *** ***
VVB1 VB1 VSS DC #VBIAS#

*** *** BIAS CURRENT *** ***
IIBIAS IBIAS VSS #IBIAS#

*** *** SUB-CIRCUIT *** ***
XOPAMP VP VN VOUT IBIAS VB1 VDD VSS PFC.SUB

*** *** LOAD *** ***
RL VOUT VX #RLOAD#
CL VOUT VX #CLOAD#
VX VX VSS '#VSUPPLY#/2'

*** *** AC LOOP *** ***
VDC VP VX DC 0
VAC VN VOUT AC 1
*CX  VN VSS 10

*** *** ANALYSIS *** ***
.AC DEC 100 0.001 1E9
*.PZ V(VOUT) VIN
*.PROBE AC VDB(VOUT)
*.PROBE AC VP(VOUT)
.OP
.OPTION POST PROBE
.LIB p.typ
.LIB n.typ
.END
